US04093799
N-Salicylidene-4-chromanamine
A 90 g (0.60 mole) portion of 4-chromanamine and 450 ml of ethanol were placed in a 2-l, 3-necked flask, equipped with a stirrer and reflux condenser fitted with a drying tube, and treated with 75 g (0.61 mole) of salicylaldehyde. The reaction mixture was refluxed for 8 hrs., stored overnight at room temperature, cooled and filtered. The yellow crystalline solid was washed with 150 ml of ethanol, ether and dried; m.p. 123°-126°. Yield: 126 g (83%).

reactant | 4-chromanamine | O1CCC(C2=CC=CC=C12)N | C9H11NO
reactant | salicylaldehyde | 0.61 mole, 75 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | N-Salicylidene-4-chromanamine | C(C=1C(O)=CC=CC1)=NC1CCOC2=CC=CC=C12 | C16H15NO2
